US07282501B2
Step C: [5-Methyl-2-(6-phenyl-pyridin-3-yl)-thiazol-4-yl]-acetic acid methyl ester
A mixture of 6-phenyl-thionicotinamide (7.0 g) and 4-bromo-3-oxo-pentanoic acid methyl ester (9.15 g, 35 mmol) in 1,4-dioxane (30 mL) was heated at reflux for 4 h. The reaction mixture was cooled, poured into aqueous saturated NaHCO3, and extracted with CH2Cl2. The organic layer was dried (MgSO4), filtered, and concentrated. The residue was purified by silica gel chromatography (hexanes/EtOAc, 2/1) to afford the title compound (6.0 g, 56%). MS (ESI) m/z 325 (M+H)+.

reactant | 6-phenyl-thionicotinamide | 7.0 g | C1(=CC=CC=C1)C1=NC=C(C(=S)N)C=C1 | C12H10N2S
reactant | 4-bromo-3-oxo-pentanoic acid methyl ester | 35 mmol, 9.15 g | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [5-Methyl-2-(6-phenyl-pyridin-3-yl)-thiazol-4-yl]-acetic acid methyl ester | 6.0 g, 56% | COC(CC=1N=C(SC1C)C=1C=NC(=CC1)C1=CC=CC=C1)=O | C18H16N2O2S
